US03944531
2-bromo-6-methyl-heptane was reacted with 3-methoxy-4-hydroxy-5-bromo-benzaldehyde to obtain 5-bromo-4-[(1,5-dimethyl-hexyl)-oxy]-m-anisaldehyde (boiling point = 190°-193°C/0.1 mmHg); 2-bromo-6-methyl-heptane was reacted with p-hydroxy-benzonitrile to obtain p-[(1,5-dimethyl-hexyl)-oxy]-benzonitrile (boiling point = 165°-168°C/1.0 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | p-hydroxy-benzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
product | p-[(1,5-dimethyl-hexyl)-oxy]-benzonitrile | CC(CCCC(C)C)OC1=CC=C(C#N)C=C1 | C15H21NO
